US04267176
To a solution of ethyl 2-(6-chloro-4-formamidopyrimidin-2-yl)acetate (2.3 g.) and sodium acetate (0.93 g.) in 80% ethanol (50 ml.) was added 10% palladium on carbon (0.2 g.), and the mixture was stirred under a hydrogen atmosphere for 8 hours at ambient temperature. The reaction mixture was filtered and the filtrate was concentrated. To the residue were added ethyl acetate and a small amount of water and the ethyl acetate layer was separated. The remaining aqueous layer was extracted with ethyl acetate. The ethyl acetate layers were combined together, washed with water and dried over magnesium sulfate and then the solvent was distilled off. Thus obtained oily substance (2.2 g.) was purified by column chromatography on silica gel (40 g.) using a mixture of benzene and ethyl acetate as an eluent to give a pale brown solid of ethyl 2-(4-formamidopyrimidin-2-yl)acetate (1.3 g.), mp. 80° to 93° C.

reactant | ethyl 2-(6-chloro-4-formamidopyrimidin-2-yl)acetate | 2.3 g | ClC1=CC(=NC(=N1)CC(=O)OCC)NC=O | C9H10ClN3O3
reactant | sodium acetate | 0.93 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | ethyl 2-(4-formamidopyrimidin-2-yl)acetate | 1.3 g | C(=O)NC1=NC(=NC=C1)CC(=O)OCC | C9H11N3O3
